US06660753B2
A mixture of methyl 3-allyloxy-5-cyanobenzoate (1.5 g, 6.9 mmol) and tetrabutylammonium iodide (2.8 g, 7.6 mmol) in dichloromethane (38 mL) at −78° C., under argon, was treated with a solution of 1M boron trichloride in dichloromethane (24 mL, 24 mmol). After 5 minutes at −78° C., the reaction mixture was stirred at ambient temperature for 1 hour. The reaction was then quenched with ice water and stirred for an additional 30 minutes. The organic layer was washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated. Silica gel chromatography using a gradient of 20-30% ethyl acetate/hexanes afforded 811 mg (67%) of methyl 3-cyano-5-hydroxybenzoate as a light yellow solid.

reactant | methyl 3-allyloxy-5-cyanobenzoate | 6.9 mmol, 1.5 g | C(C=C)OC=1C=C(C(=O)OC)C=C(C1)C#N | C12H11NO3
reactant | boron trichloride | 1M | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylammonium iodide | 7.6 mmol, 2.8 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 38 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 24 mmol, 24 mL | ClCCl | CH2Cl2
product | methyl 3-cyano-5-hydroxybenzoate | 811 mg, 67% | C(#N)C=1C=C(C(=O)OC)C=C(C1)O | C9H7NO3
